US08043839B2
The crystal structure of the exemplary enzyme of the invention SEQ ID NO:482 is extremely similar to the “wild type” enzyme—the exemplary enzyme of the invention SEQ ID NO:382. The amino acid differences between the “wild type” SEQ ID NO:382 and “mutant” xylanase SEQ ID NO:482, which are all in the N-terminal region of the protein, are located on β-strands 2, 3 and 4 and the loops connecting β-strands 1 and 2 and 5 and 6. The mechanisms by which these amino acid changes increase the thermostability of the enzyme are intriguing. The N14H mutations causes the most significant increase in thermostability with a Tm 11° higher than the wild type enzyme and yet the interactions between this amino acid and the equivalent residue in the wild enzyme, Asn-14, are very similar. Thus, the backbone O and N of both residues make hydrogen bonds with the carbonyl and amine, respectively of residue 17. The Nδ2 of Asn-14 in the “wild type” enzyme (SEQ ID NO:382) and the Nε2 of His-14 in SEQ ID NO:482 both make a hydrogen bond with the carbonyl backbone of amino acid 34, while the side chains of the histidine and the asparagine may also make an additional weak interaction with Asn-15, although the geometry of these interactions are suboptimal for ideal hydrogen bonds. The electron cloud of the imidazole ring of His-14 is sandwiched between Asn-15 and Leu-33 and thus will make van der Waals contacts with these two residues, and it is possible that these interactions contribute to overall protein stability. The precise mechanism by which the N14H mutation causes such a substantial increase in thermostability is currently very unclear and points to how extremely subtle changes in protein structure can have a substantial impact on thermal stability. The S9P mutation also results a substantial increase in the Tm (4.6° C.) of the enzyme, however, the molecular basis for this increase in stability is not readily apparent. The proline in the mutant makes weak hydrophobic interactions with the aromatic side chain of Phe-21, however, the Oγ of Ser-9 in the wild type xylanase forms hydrogen bonds with the backbone carbonyl and NH of Lys-23. As residue 9 is in the region connecting βstrands 1 and 2, it is possible that the proline ring may contribute to protein stability by locking the conformation of this loop into an optimum conformation for the overall protein fold of the protein. The phenylalanine introduced in the T13F mutant makes numerous van der Waals contacts with Phe-18, while the hydroxyl of Thr-13 in the wild type enzyme does not make direct hydrogen bonds within the protein. Thus, the increased thermostability displayed by the T13F mutant, compared to the wild type enzyme (SEQ ID NO:382), is the result of hydrophobic interactions between Phe-13 and Phe-18. The increase in stability afforded by the Y18F and Q34L mutations are intriguing. The substitution of the glutamine with leucine results in the loss of three direct hydrogen bonds between the side chain of Gln-34 and the Nε2 of Gln-3 and the Oγ of Thr-40 and the backbone carbonyl of Cys-32 within the protein. The loss of these hydrogen bonds may be compensated, to some extent, by van der Waals contacts between Leu-34 and the hydrocarbon chain of Arg-38. It would appear, therefore, that both Tyr-18 and Leu-34 are unlikely to increase thermostability by increasing direct interactions within the protein molecule. It is interesting to note, however, that there are extensive solvent mediated hydrogen bonding networks between Oη of Tyr-18 and Gln-56 and Asn-174, while Oε1 of Gln-34 also makes water mediated interactions with Gln-3, Ser-35 and Arg38. It is possible that the loss of two and five water molecules through the Q34L and Y18F mutations, respectively, may increase the entropy associated with protein folding and hence thermostability. The increase in thermostability afforded by the S35E mutation is particularly intriguing. The side chain of the introduced glutamate does not make any interactions with the protein and, indeed it is highly disordered and has been modeled in four different conformations. Although significant stabilization by charged residues at the surface is due to salt-bridge formation, it has been shown that optimum placing of individual charged surface residues in the overall electrostatic network provides a general model for hyperthermophilic protein stability. It remains possible that, since desolvation of charged side-chains is destabilizing, the charge introduction may limit the local conformation, stabilizing the loop connecting β-strands 4 and 5 (Glu-35 is at the very end of β-strand 4) and improving cooperativity. If the disruption of this loop initiates the unfolding process, then the rationale for the dramatic influence of the S35E mutation on protein stability is more evident.

reactant | proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | phenylalanine | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
product | leucine | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
